US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4dihydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-2-carboxylic acid (625 mg) and 500 mg of 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride are dissolved in 10 ml of dimethylacetamide and left at room temperature for 24 hours. Thereafter, the solvent is evaporated at 30° C. in a vacuum. The residue is triturated with 30 ml of water, whereby it becomes solid. It is filtered off under suction, washed with water and dried at 0.1 mmHg/40° C. and there are obtained 800 mg of beige (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]-acetamido]-3-[[[5-(3,4-dihydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia- 1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4dihydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-2-carboxylic acid | 625 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=CC2)C2=CC(=C(C=C2)O)O)=O | C25H19N7O7S3
reactant | 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride | 500 mg | Cl.NOC(C(=O)NNC(C1=CC(=C(C=C1)O)O)=O)(C)C
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]-acetamido]-3-[[[5-(3,4-dihydroxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia- 1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 800 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=CC2)C2=CC(=C(C=C2)O)O)=N/OC(C)(C)C(NNC(C2=CC(=C(C=C2)O)O)=O)=O | C36H32N10O11S3
